US06372735B1
p-Toluenesulfonic acid monohydrate (57 mg) and isobutyl aldehyde (0.41 ml) were added to a solution of ethyl 5-(5-isopropoxy-4-methoxy-2-nitrobenzoyl)-1H-1,2,3-triazole-4-carboxylate (1.14 g), prepared in step (32a), in methylene chloride solution (17 ml) at −20° C. The mixture was stirred at that temperature for one hr. 1,1′-Carbonyldiimidazole (732 mg) was added to the reaction solution. Further, one hr after that, 1,3-diethoxy-2-propanol (4.70 ml) was added thereto. The reaction solution was cooled to −30° C. Trifluoroacetic acid (0.70 ml) was added thereto. The temperature was raised to room temperature, followed by stirring for 25 hr. 0.5 M hydrochloric acid was added to the reaction solution under ice cooling to stop the reaction, and separation was then carried out. The organic layer was washed five times with a 7% aqueous sodium hydrogencarbonate solution. The solvent was evaporated under reduced pressure. Diethyl ether and water were added to the residue. The organic layer after the separation was successively washed twice with water, with 0.5 M hydrochloric acid, twice with water, and then with 20% saline. The solvent was evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (ethyl acetate/hexane) to give a crude product of ethyl 2-(1-(1,3-diethoxy-2-propoxycarbonyloxy)-2-methylpropyl)-5-(5-isopropoxy-4-methoxy-2-nitrobenzoyl)-2H-1,2,3-triazole-4-carboxylate (1.15 g).

reactant | p-Toluenesulfonic acid monohydrate | 57 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | ethyl 5-(5-isopropoxy-4-methoxy-2-nitrobenzoyl)-1H-1,2,3-triazole-4-carboxylate | 1.14 g | C(C)(C)OC=1C(=CC(=C(C(=O)C2=C(N=NN2)C(=O)OCC)C1)[N+](=O)[O-])OC | C16H18N4O7
reactant | 1,1′-Carbonyldiimidazole | 732 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1,3-diethoxy-2-propanol | 4.70 ml | C(C)OCC(COCC)O | C7H16O3
reactant | Trifluoroacetic acid | 0.70 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloric acid | 0.5 M | Cl | ClH
solvent | methylene chloride | 17 ml | C(Cl)Cl | CH2Cl2
product | ethyl 2-(1-(1,3-diethoxy-2-propoxycarbonyloxy)-2-methylpropyl)-5-(5-isopropoxy-4-methoxy-2-nitrobenzoyl)-2H-1,2,3-triazole-4-carboxylate | 1.15 g | C(C)OCC(COCC)OC(=O)OC(C(C)C)N1N=C(C(=N1)C(=O)OCC)C(C1=C(C=C(C(=C1)OC(C)C)OC)[N+](=O)[O-])=O | C28H40N4O12
